* C:\Users\colli\Desktop\EE\Synth\LTKick\WeinBridgeV1.asc
R1 V_out N004 {Rosc}
R2 V_out N001 100k
R3 N001 0 50501
R4 0 N002 {Rosc}
C1 0 N002 100n
C2 N002 N004 100n
V1 V- 0 -12
V2 V+ 0 12
R5 N003 V_out 10k
C3 N003 0 1µ
XU1 N002 N001 V+ V- V_out TL072
.lib opamp.sub
; --- Parameter to sweep the resistor ---
.param Rosc=15k
.step param Rosc list 6k 8k 10k 15k
; --- Transient simulation ---
.tran 0 2 0 startup
; --- Zero-crossing frequency measurement ---
; We look for the 3rd and 4th rising zero-crossings of V(v_out)
; --- Compute period and frequency ---
.meas TRAN period TRIG V(v_out) VAL=0 RISE=3 TARG V(v_out) VAL=0 RISE=4
.meas TRAN freq PARAM 1/period
.wave "C:\Users\colli\Desktop\EE\Synth\LTKick\wein_bridge.wav" 16 44.1k V(v_out)/12
.lib C:\Users\colli\Desktop\EE\Synth\LTKick\TL072.301
.backanno
.end
